US07241811B2
The residue containing 1-amino-4-methylcyclohex-3-ene was taken up into dichloromethane (5 ml). To the mixture were added triethylamine (0.6 ml) and 4-fluorophenyl-isocyanate (97 μl) at 0° C. and the resultant mixture was allowed to stir for 30 minutes at 0° C. Evaporation under reduced pressure gave a residue, which was taken up into a mixture of water and ethyl acetate. The separated organic layer was washed with brine, evaporated under reduced pressure, and triturated with n-hexane to give N-(4-methylcyclohex-3-en-1-yl)-N′-(4-fluorophenyl)urea (0.206 g).

reactant | 1-amino-4-methylcyclohex-3-ene | NC1CC=C(CC1)C | C7H13N
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | 4-fluorophenyl-isocyanate | 97 μl | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-(4-methylcyclohex-3-en-1-yl)-N′-(4-fluorophenyl)urea | 0.206 g | CC1=CCC(CC1)NC(=O)NC1=CC=C(C=C1)F | C14H17FN2O
